US04032525
In an analogous manner to that described in Example 5, from 1-[2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine and 3-chloro-1-propanol, there is obtained 3-{4-[2-chloro10,11-dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-1-propanol as an oil. The dihydrochloride, prepared in ethanol, melts at 206°-207° C. (with decomposition).

reactant | 1-[2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine | ClC1=CC2=C(OC3=C(C(C2)N2CCNCC2)C=CC=C3)C=C1 | C18H19ClN2O
reactant | 3-chloro-1-propanol | ClCCCO | C3H7ClO
product | 3-{4-[2-chloro10,11-dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-1-propanol | ClC1=CC2=C(OC3=C(C(C2)N2CCN(CC2)CCCO)C=CC=C3)C=C1 | C21H25ClN2O2
